US06743785B2
2-Oxo-3-(2,3,4,5-tetrahydro-benzo[b]azepin-1-yl)-propionic acid ethyl ester
To a 0° C. suspension of 60% sodium hydride (3.0 g, 0.12 mol) in 300 mL of dimethylformamide was added 2,3,4,5-tetrahydro-1H-benzo[b]azepine in small portions. Upon complete addition of the amine, the ice bath was removed and the reaction stirred at 20-24° C. for 40 minutes. Ethyl bromopyruvate (22.6 mL, 0.16 mol) was then added and the resulting mixture stirred at 20-24° C. for 6 hours. An additional 5 mL of ethyl bromopyruvate was added and the mixture stirred for 1 hour. The reaction was quenched by the addition of 50 mL of water followed by dilution with 1.5 L of dichloromethane. The layers were separated and the organic layer was washed with water (2×500 mL) and saturated aqueous sodium chloride (500 mL). The organic phase was dried over sodium sulfate, filtered and concentrated under reduced pressure at 60° C. The residual brown oil was dissolved in ethyl acetate (500 mL) and was washed 3 times with water (100 mL) and once with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 5-10% EtOAc/hexanes to provide 7.0 g (40%) of the desired compound as an off white solid.

reactant | sodium hydride | 0.12 mol, 3.0 g | [H-].[Na+]
reactant | 2,3,4,5-tetrahydro-1H-benzo[b]azepine | N1C2=C(CCCC1)C=CC=C2 | C10H13N
reactant | Ethyl bromopyruvate | 0.16 mol, 22.6 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ethyl bromopyruvate | 5 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 2-Oxo-3-(2,3,4,5-tetrahydro-benzo[b]azepin-1-yl)-propionic acid ethyl ester | 7.0 g, 40% | C(C)OC(C(CN1C2=C(CCCC1)C=CC=C2)=O)=O | C15H19NO3
